US04051252
Analogously to Example 1, 0.04 mol of 3-amino-6-trifluoromethylindazole and 50 ml of pyrocarbonic acid diethyl ester in 25 ml of ethanol give 3-amino-6-trifluoromethylindazole-2-carboxylic acid ethyl ester (melting point: 153°-155° C; 77% of theory) in 1 hour at 20° C.

reactant | pyrocarbonic acid diethyl ester | 50 ml | C(C)OC(=O)OC(=O)OCC | C6H10O5
reactant | 3-amino-6-trifluoromethylindazole-2-carboxylic acid ethyl ester | C(C)OC(=O)N1N=C2C=C(C=CC2=C1N)C(F)(F)F | C11H10F3N3O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 3-amino-6-trifluoromethylindazole | 0.04 mol | NC1=NNC2=CC(=CC=C12)C(F)(F)F | C8H6F3N3
